* C:\Users\mshar\Documents\capstone\simulation\turbiditySensor.asc
V1 Vcc 0 5
V2 Vsensor 0 PWL file=C:\Users\mshar\Documents\capstone\simulation\turb_sensor.txt
XU1 Vsensor N002 Vcc 0 N001 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU2 Vref N005 Vcc 0 N006 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU3 N004 N003 Vcc 0 Vout level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R2 N002 N005 10k
R3 N001 N002 1k
R4 N006 N005 1k
R5 N003 N001 1k
R6 N004 N006 1k
R7 N004 0 8k
R8 Vout N003 8k
R1 Vref 0 3.6k
R9 Vcc Vref 1.3k
R10 Vout 0 1Meg
.tran 0 0.5s 0 0.1ms
.lib UniversalOpAmp2.lib
.backanno
.end
