* C:\Users\mshar\Documents\capstone\simulation\turbiditySensor.asc
V1 Vcc 0 5
V2 Vsensor 0 PWL file=C:\Users\mshar\Documents\capstone\simulation\turb_sensor.txt
XU1 Vsensor N002 Vcc 0 N001 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU2 Vref N006 Vcc 0 N007 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU3 N005 N003 Vcc 0 N004 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R2 N002 N006 10k
R3 N001 N002 1k
R4 N007 N006 1k
R5 N003 N001 1k
R6 N005 N007 1k
R7 N005 0 8k
R8 N004 N003 8k
R1 Vref 0 3.6k
R9 Vcc Vref 1.3k
D1 0 Vout zener3
R10 Vout N004 10k
.model D D
.lib C:\Users\mshar\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 0.5s 0 0.1ms
.model zener3 D(Vrev=3 type=zener)
.lib UniversalOpAmp2.lib
.backanno
.end
